US08975415B2
To a mixture of di-tert-butyl (6′-bromodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)imidodicarbonate (200 mg, 0.393 mmol), bis(dibenzylideneacetone)palladium (0) (22.6 mg, 0.039 mmol), and tri-tert-butylphosphonium tetrafluoroborate (11.6 mg, 0.039 mmol) was added lithium bis(trimethylsilyl)amide (1 M in toluene, 1.96 mL, 1.96 mmol) at ambient temperature. After stirring for 1 hour at 100° C., the mixture was cooled down to ambient temperature. To the mixture were added 1M aqueous HCl (1.96 mL) and MeOH (1.96 mL) at ambient temperature, and the mixture was stirred for 30 minutes at the same temperature. The mixture was extracted with CHCl3, and the organic layer was dried over Na2SO4 and filtered. The filtrate was concentrated at reduced pressure and purified with column chromatography on silica gel (hexane-EtOAc, a linear gradient of EtOAc from 0 to 90%) to afford tert-butyl (6′-aminodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)carbamate (103 mg).

reactant | di-tert-butyl (6′-bromodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)imidodicarbonate | 0.393 mmol, 200 mg | BrC=1C=C2C(=CC1)OCC1(CC1)C21N=C(OC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C23H29BrN2O6
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.039 mmol, 11.6 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | lithium bis(trimethylsilyl)amide | 1.96 mmol, 1 M, 1.96 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | HCl | 1M, 1.96 mL | Cl | ClH
catalyst | bis(dibenzylideneacetone)palladium | 0.039 mmol, 22.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | MeOH | 1.96 mL | CO | CH4O
product | tert-butyl (6′-aminodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)carbamate | 103 mg | NC=1C=C2C(=CC1)OCC1(CC1)C21N=C(OC1)NC(OC(C)(C)C)=O | C18H23N3O4
